2159-01-29 22:28:00 Physician Attending Progress Note
Chief Complaint: fever, hypotension, tachycardia, tachypnea,
   pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89M referred from rehab with fevers, cough x 2 days. This AM, found to
   be hypotensive 80's/60's. In ER temp 101, HR 150's, transfused PRBCs,
   guaiac negative. Abd CT negative, RIJ placed, given [** 1679**] then lasix.
   HR improved to 110's, BP stable. In ICU, tachypneic with RR in 30's.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-1-29**] 08:00 PM
   Ceftriaxone - [**2159-1-29**] 09:54 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-1-29**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   GIB - recent extensive w/u, receives transfusions periodically, last
   [**1-24**]
   PUD
   AVR - mechanical
   CAD - MI [**7-11**]
   CRI
   prostate cancer
   dementia
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2159-1-29**] 10:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102.1
   HR: 98 (98 - 106) bpm
   BP: 88/50(61) {88/49(61) - 114/60(68)} mmHg
   RR: 37 (17 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
             771 mL
   PO:
             TF:
   IVF:
   771 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    710 mL
   Urine:
   710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 4 LPM NC
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   128 K/uL
   138 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.5 mEq/L
   27 mg/dL
   105 mEq/L
   139 mEq/L
   26.2 %
   4.0 K/uL
        [image002.jpg]
                            [**2159-1-29**]  08:16 PM
   WBC
   4.0
   Hct
   26.2
   Plt
   128
   Cr
   1.5
   TropT
   0.11
   Glucose
   138
   Other labs: PT / PTT / INR:32.5/144.0/3.3, CK / CKMB /
   Troponin-T:44//0.11, Fibrinogen:462 mg/dL, Lactic Acid:1.7, LDH:283,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: 7.39/37/102
   haptoglobin < 5
   Imaging: abd CT no obvious abnormalities, likely rounded atelectasis
   left lung base
   Microbiology: blood culture pending
   urine culture pending
   ECG: NRS 99,  old RBBB
   Assessment and Plan
   fever, hypotension, tachycardia, tachypnea, pancytopenia - appears
   infectious/septic in origin, site of infection however not readily
   apparent, being covered broadly for now with empiric [**Last Name (LF) 1679**], [**First Name3 (LF) 124**] collect
   flu swab - immunization status unclear
   anemia - complex picture of GI losses and hemolysis, continue to follow
   Hct
   CRI - at baseline
   AVR, anti-coagulation - maintain INR > 2.5
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-1-29**] 08:58 PM
   20 Gauge - [**2159-1-29**] 08:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2159-01-30 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Anemia
   24 Hour Events:
   None
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-1-29**] 08:00 PM
   Ceftriaxone - [**2159-1-29**] 09:54 PM
   Piperacillin - [**2159-1-30**] 05:53 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-1-29**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-1-30**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.7
C (98.1
   HR: 81 (79 - 106) bpm
   BP: 87/43(53) {87/40(52) - 114/60(68)} mmHg
   RR: 28 (17 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    890 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    280 mL
   Urine:
                                                                    710 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    180 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   Pulmonary: CTA Bilaterally, Mouth breathing, No accessory muscle use
   Cardiac: SEM, Prounounced S2 (click)
   Abd: Soft
   Skin: No jaundice, bruising, or petechia
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   118 K/uL
   7.5 g/dL
   110 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   29 mg/dL
   106 mEq/L
   140 mEq/L
   23.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2159-1-29**]  08:16 PM
                            [**2159-1-30**]  03:22 AM
   WBC
   4.0
   7.1
   Hct
   26.2
   23.4
   Plt
   128
   118
   Cr
   1.5
   1.6
   TropT
   0.11
   0.13
   Glucose
   138
   110
   Other labs: PT / PTT / INR:29.7/72.6/2.9, CK / CKMB /
   Troponin-T:86//0.13, Fibrinogen:462 mg/dL, Ca++:6.8 mg/dL, Mg++:1.7
   mg/dL, PO4:4.1 mg/dL
   Micro:
   Legionella Negative
   Influenza DFA Pending
   Blood/Urine Pending
   CXR ([**2159-1-30**]):
   Assessment and Plan
   89 yo M with a history of GI bleeds, presents with anemia, and
   hypotensive, tachycardic episode in the ED, concerning for septic
   shock.
   .
   # Hypotension, tachycardia: Patient had SBPs in 70s, with HR in 150s,
   along with documented fever at rehab and in the ED. This seems to have
   temporarily resolved with 1u PRBCs and IV fluids. Most concerning for
   septic shock. Most likely source is pneumonia given tachypnea and
   fevers. However, no clear infiltrate on chest x-ray. There is some
   bibasilar atelectasis. This is possibly a viral respiratory infection,
   especially given initial pancytopenia. CT abdomen negative for
   abdominal source of infectious, or mesenteric ischemia. No other
   obvious infectious source. Patient has a history of melanic stools,
   though with recent Colonoscopy, EGD, and capsule study without obvious
   source. Guaiac negative in the ED. HCT 21 today.
   Given history of [**Last Name (LF) **], [**First Name3 (LF) 124**] rule out MI.
   -continue Vancomycin, Zosyn for health care associated pneumonia
   -obtain H1N1 DFA
   - Empiric Oseltamivir
   -flu precautions
   -f/u blood cultures
   -obtain UA
   -f/u urine culture
   -obtain sputum culture if possible
   -obtain U legionella Ag
   -AM CXR
   -check HCT q8h. Transfuse to keep HCT>24
   -active T&S
   -cycle CEs
   .
   # Macrocytic Anemia: HCT 21. Patient has a history of melanic stools,
   though with recent Colonoscopy, EGD, and capsule study without obvious
   source. Guaiac negative in the ED. Other etiologies include hemolysis
   secondary to mechanical valve. Haptoglobin <5, though this is difficult
   to interpret in the setting of multiple recent transfusions. Patient
   has a history of hemolytic anemia [**3-6**] amoxacillin.  Patient has
   pancytopenia on this admission. Given his age, this is most likely bone
   marrow suppression secondary to MDS. Mactrocytosis likely [**3-6**]
   reticulocytes, though will check B12, folate.
   -check HCT q8h. Transfuse to keep HCT>24
   -continue [**Hospital1 **] PPI
   -obtain coags, fibrinogen, retic count
   -obtain B12, folate
   -active T&S
   -hold coumadin overnight
   -if patient demonstrates active source of bleeding, would reverse INR
   with FFP
   -peripheral smear to eval for schistocytes
   .
   # Thrombocytopenia: [**Month (only) 8**] be related to MDS and pancytopenia as above.
   Would also consider pancytopenia in the setting of viral process.
    -  Follow platelet count
    -  Peripheral Smear
   .
   # Aortic mechanical valve: On coumadin as an outpatient. INR currently
   2.7.
   -hold coumadin tonight given unclear etiology of anemia. If HCT stable
   and no active signs of bleeding, would restart coumadin in the AM
   .
   # Respiratory status: Patient hypoxic in the ED in the setting of IV
   fluids and PRBCs. CXR was consistent with mild fluid overload.
   Currently patient is tachypneic, though denies discomfort. JVP not
   obviously elevated, no crackles on exam. ABG in ED within normal
   limits. If increase O2 requirement or short of breath, would diurese
   with 40mg IV lasix.
   - repeat ABG if patient develops hypoxia or greater
   .
   # CAD s/p [**Month (only) **]: CP free. However hypotension and tachycardia could be
   in the setting of new ischemic event
   -repeat EKG
   -cycle enzymes
   -continue outpatient statin and metoprolol
   .
   # CKD: Reported baseline 1.6-2.0. Cr currently 1.3.
   -continue Ca and Vit D
   -avoid nephrotoxins
   -renally dose meds
   .
   # h/o Prostate Ca s/p XRT: continue to monitor
   .
   # FEN: No IVF for now, replete electrolytes, NPO
   # Prophylaxis: pneumoboots
   # Access: CVL and PIV x1
   # Communication: [**Name (NI) 3288**] [**Name (NI) 10726**] cousin in [**Name (NI) 3170**] at [**Telephone/Fax (1) 10727**].
   HCP is son [**Name (NI) 362**] [**Name (NI) 7999**] ([**Location (un) 2558**], MA) [**Telephone/Fax (1) 7998**]. Son [**Name (NI) **] in NC [**Telephone/Fax (1) 10728**].
   # Code:  Full (confirmed with patient). Also states in [**Hospital 858**] Rehab
   paperwork.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-1-29**] 08:58 PM
   20 Gauge - [**2159-1-29**] 08:58 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  Pantoprazole as above.
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-01-31 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension, Fever, Anemia
   24 Hour Events:
   - One unit of blood when low crit and hypotensive
   - 2.2 L fluid (NS) in today, still only 900 cc urine
   - INR still 3.2 so held coumadin
   - Stopped metoprolol
   - Troponin slightly elevated and stable without impressive CK-MB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-1-29**] 09:54 PM
   Piperacillin - [**2159-1-30**] 05:53 AM
   Vancomycin - [**2159-1-30**] 07:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-1-31**] 06:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-1-31**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 77 (69 - 82) bpm
   BP: 126/49(77) {105/38(64) - 148/56(86)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (2 - 11)mmHg
   Total In:
                                                                  3,235 mL
                                                                    169 mL
   PO:
   TF:
   IVF:
                                                                  2,885 mL
                                                                    169 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    905 mL
                                                                    380 mL
   Urine:
                                                                    905 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,330 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   7.9 g/dL
   80 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.0 mEq/L
   28 mg/dL
   111 mEq/L
   144 mEq/L
   24.8 %
   3.5 K/uL
        [image002.jpg]
                            [**2159-1-29**]  08:16 PM
                            [**2159-1-30**]  03:22 AM
                            [**2159-1-30**]  09:50 AM
                            [**2159-1-30**]  02:53 PM
                            [**2159-1-30**]  10:39 PM
                            [**2159-1-31**]  04:21 AM
   WBC
   4.0
   7.1
   5.3
   3.5
   Hct
   26.2
   23.4
   22.2
   23.4
   25.3
   24.8
   Plt
   128
   118
   112
   101
   Cr
   1.5
   1.6
   1.4
   TropT
   0.11
   0.13
   0.07
   Glucose
   138
   110
   80
   Other labs: PT / PTT / INR:34.9/82.8/3.6, CK / CKMB /
   Troponin-T:90//0.07, Fibrinogen:462 mg/dL, Lactic Acid:1.0 mmol/L,
   Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
    UPEP, SPEP, Coomb's sent (direct Coomb's is positive)
   BNP elevated - not clear what to do with this (still likely
   hypovolemic)
   Blood Cultures: Pending
   Echo - Cannot exclude vegetation, but we have no suspicion:
   "Well-seated bileaflete aortic valve prosthesis with normal gradient
   and no discrete vegetation. Echodensity on the mitral chordae as
   described above most c/w calcified chord. Mild symmetric left
   ventricular hypertrophy mild global hypokinesis. Mildly dilated right
   ventricle with mild global hypokinesis."
   Assessment and Plan
   89 yo M with a history of GI bleeds, presents with anemia, and
   hypotensive, tachycardic episode in the ED, concerning for septic
   shock.
   .
   # Hypotension, tachycardia: Patient had SBPs in 70s, with HR in 150s,
   along with documented fever at rehab and in the ED. This seems to have
   temporarily resolved with 1u PRBCs and IV fluids. Most concerning for
   septic shock. Most likely source is pneumonia given tachypnea and
   fevers. However, no clear infiltrate on chest x-ray. There is some
   bibasilar atelectasis. This is possibly a viral respiratory infection,
   especially given initial pancytopenia. CT abdomen negative for
   abdominal source of infectious, or mesenteric ischemia. No other
   obvious infectious source. Patient has a history of melanic stools,
   though with recent Colonoscopy, EGD, and capsule study without obvious
   source. Guaiac negative in the ED. HCT 21 today.
   Given history of [**Last Name (LF) **], [**First Name3 (LF) 124**] rule out MI. Influenza DFA negative.
   Urine Legionella Negative.
   -continue Vancomycin, Zosyn for health care associated pneumonia
   -f/u blood cultures
   -obtain UA
   -f/u urine culture
   -obtain sputum culture if possible
   -AM CXR
   -check HCT q8h. Transfuse to keep HCT>24
   -active T&S
   -cycle CEs
   - ECHO
   - Bolus One liter IVF, A line if pressure does not improve.
   .
   # Macrocytic Anemia: Patient with positive direct Coombs, Haptoglobin
   <5. No signs of GI bleeding., though this is difficult to interpret in
   the setting of multiple recent transfusions. Patient has pancytopenia
   on this admission. Given his age, this is most likely bone marrow
   suppression secondary to MDS, Multiple Myeloma, malnutrition, etc.
   Mactrocytosis likely [**3-6**] reticulocytes, though will check B12, folate.
   -check HCT q8h. Transfuse to keep HCT>24
   -obtain coags, fibrinogen, retic count - Follow
   -active T&S
   -peripheral smear to eval for schistocytes
   - Coombs test
   - UPEP, SPEP
   - Heme/Onc Consultation.
   .
   # Aortic mechanical valve: On coumadin as an outpatient. INR
   supratherapeutic.
   -Follow INR, Restart when INR in low normal range. Most likely elevated
   given antibiotic use.
   .
   # Hypoxia: Patient hypoxic in the ED in the setting of IV fluids and
   PRBCs. CXR was consistent with mild fluid overload. Currently patient
   is tachypneic, though denies discomfort. JVP not obviously elevated, no
   crackles on exam. ABG in ED within normal limits. If increase O2
   requirement or short of breath, would diurese with 40mg IV lasix.
   -          repeat ABG if patient develops hypoxia or greater
   -          CVP
   .
   # CAD s/p [**Month/Day (2) **]: CP free. However hypotension and tachycardia could be
   in the setting of new ischemic event. CK/CKMB flat, mildly elevated
   Troponin.
   -repeat EKG in AM
   -cycle enzymes
   -continue outpatient statin
   - DC metoprolol given low blood pressures.
   .
   # CKD: Reported baseline 1.6-2.0. Cr currently 1.4.
   -continue Ca and Vit D
   -avoid nephrotoxins
   -renally dose meds
   .
   # h/o Prostate Ca s/p XRT: continue to monitor
   .
   # FEN: No IVF for now, replete electrolytes, NPO
   # Prophylaxis: pneumoboots
   # Access: CVL and PIV x1
   # Communication: [**Name (NI) 3288**] [**Name (NI) 10726**] cousin in [**Name (NI) 3170**] at [**Telephone/Fax (1) 10727**].
   HCP is son [**Name (NI) 362**] [**Name (NI) 7999**] ([**Location (un) 2558**], MA) [**Telephone/Fax (1) 7998**]. Son [**Name (NI) **] in NC [**Telephone/Fax (1) 10728**].
   # Code:  Full (confirmed with patient). Also states in [**Hospital 858**] Rehab
   paperwork.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-1-29**] 08:58 PM
   20 Gauge - [**2159-1-29**] 08:58 PM
   Arterial Line - [**2159-1-30**] 11:41 AM
   Prophylaxis:
   DVT: INR elevated
   Stress ulcer:  Pantoprazole IV Q12.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: